US09290476B2
1-(4-Benzoylpiperidin-1-yl)ethanone
A mixture of phenyl(piperidin-4-yl)methanone hydrochloride (743 mg, 3.29 mmol) in dichloromethane (13.2 mL) and triethylamine (1.10 mL, 7.90 mmol) was treated with Ac2O (0.373 mL, 3.95 mmol) dropwise over 1 minute in an ice bath under argon, and the resulting translucent mixture was immediately removed from the ice bath and stirred at room temperature overnight. The reaction was then extracted with 1 M aqueous HCl (1×8 mL) and 1 M aqueous NaOH (1×8 mL), and the organic layer was dried (Na2SO4), filtered, and concentrated to provide the title compound as a translucent beige oil that crystallized upon standing.

reactant | phenyl(piperidin-4-yl)methanone hydrochloride | 3.29 mmol, 743 mg | Cl.C1(=CC=CC=C1)C(=O)C1CCNCC1
reactant | triethylamine | 7.90 mmol, 1.10 mL | C(C)N(CC)CC | C6H15N
reactant | Ac2O | 3.95 mmol, 0.373 mL | CC(=O)OC(=O)C | C4H6O3
solvent | dichloromethane | 13.2 mL | ClCCl | CH2Cl2
product | 1-(4-Benzoylpiperidin-1-yl)ethanone | C(C1=CC=CC=C1)(=O)C1CCN(CC1)C(C)=O | C14H17NO2
